Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope, bradycardia
 
Major Surgical or Invasive Procedure:
Dual chamber pace maker placement ___
Pacemaker lead revision ___ 

 
History of Present Illness:
___ year old male with known
bradycardia followed by cardiology at ___ presents as
transfer for syncope.

Per report, patient developed sudden onset severe 
lightheadedness
around 1530 on the afternoon of presentation and then lowered
himself to the floor. He denied LOS, though noted complete
inability to move his right arm. He was unable to get up for 
more
than 45 minutes because he was unable to use his right side. He
also had ___ left sided headache. After 45 minutes, he was able
to crawl to the cough and went to sleep. Upon waking, patient 
had
improvement in strength in his right arm but still felt tired, 
so
he presented to ___.

At OSH, patient's lab work was unremarkable. An ECG was 
performed
that was concerning for complete heart block, so he was
transferred to ___ for further evaluation.

In the ED, an ECG was obtained that showed complete heart block
with ventricular rate of 40 and sinus rate of 80. BP were 
stable.
Labs were unremarkable. Cardiology was consulted, who 
recommended
admission to ___.

With regard to his history of bradycardia, he reports being
diagnosed with bradycardia last year after complaining of left
sided chest pain. He was referred him to Dr. ___ who
obtained Holter that reportedly showed sinus bradycardia and an
ETT that showed near doubling of his baseline HR to only 77 
after
13 minutes on ___ protocol.

REVIEW OF SYSTEMS:
Cardiac review of systems is notable for absence of chest pain,
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea,
ankle edema, palpitations, syncope, or presyncope.

On further review of systems, denies any prior history of 
stroke,
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the
time of surgery, myalgias, joint pains, cough, hemoptysis, black
stools or red stools. Denies exertional buttock or calf pain.
Denies recent fevers, chills or rigors. All of the other review
of systems were negative.

 
Past Medical History:
Bradycardia 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
VS: 98.1  144/74  44   17   99 Ra 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: Bradycardic, S1/S2. III/VI systolic murmur appreciated
throughout the precordium, loudest a LUSB and apex. PMI is
nondisplaced. Precordial heave.
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert. CNII-XII intact. ___ strength throughout. Notably,
he has no objective weakness in the RUE on my exam.
DERM: warm and well perfused, no excoriations or lesions, no
rashes

24 HR Data (last updated ___ @ 800)
Temp: 97.9 (Tm 98.6), BP: 120/68 (118-148/64-80), HR: 61 
(40-89),
RR: 16 (___), O2 sat: 100% (95-100), O2 delivery: Ra  
Telemetry: V paced
General: Well-appearing man, alert and conversant, not in
distress 
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no JVD
CV: Regular rate, S1/S2. II/VI systolic murmur appreciated
throughout the precordium, loudest a LUSB and apex. PMI is
nondisplaced. 
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert. CNII-XII intact. ___ strength throughout, 
including
RUE
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
=========================
___ 12:00AM BLOOD WBC-9.6 RBC-5.13 Hgb-14.3 Hct-44.1 MCV-86 
MCH-27.9 MCHC-32.4 RDW-13.0 RDWSD-40.1 Plt ___
___ 12:00AM BLOOD Neuts-72.6* ___ Monos-4.8* 
Eos-0.9* Baso-0.2 Im ___ AbsNeut-6.93* AbsLymp-2.04 
AbsMono-0.46 AbsEos-0.09 AbsBaso-0.02
___ 12:00AM BLOOD ___ PTT-20.0* ___
___ 12:00AM BLOOD Glucose-106* UreaN-6 Creat-0.9 Na-142 
K-4.4 Cl-107 HCO3-23 AnGap-12
___ 12:00AM BLOOD cTropnT-<0.01
___ 06:50AM BLOOD cTropnT-<0.01
___ 12:00AM BLOOD Albumin-4.5 Calcium-10.0 Phos-2.9 Mg-2.0

PERTINENT INTERIM LABS
==========================
___ 06:50AM BLOOD VitB12-414
___ 06:50AM BLOOD %HbA1c-5.5 eAG-111
___ 06:50AM BLOOD Triglyc-67 HDL-52 CHOL/HD-2.2 LDLcalc-48
___ 07:32AM BLOOD TSH-1.9
___ 07:40AM BLOOD ___ CRP-3.6
___ 12:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS
===========================
___ 07:27AM BLOOD WBC-5.7 RBC-5.35 Hgb-14.8 Hct-45.8 MCV-86 
MCH-27.7 MCHC-32.3 RDW-13.0 RDWSD-40.1 Plt ___
___ 07:27AM BLOOD Glucose-91 UreaN-9 Creat-0.7 Na-141 K-4.4 
Cl-103 HCO3-24 AnGap-14

MICROBIOLOGY
============================
___ 1:48 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 7:22 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

___ 7:32 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING
============================
CTA head/neck ___ IMPRESSION: 
1. Ill-defined hypodensity, left parafalcine frontal lobe.  
Although 
nonspecific, this could represent infarction.  Recommend MRI for 
further 
assessment. 
2. Elsewhere, no hemorrhage or other acute intracranial 
abnormality. 
3. Unremarkable CTA head, widely patent circle of ___. 
4. Normal CTA neck. 
5. Mildly prominent bilateral upper cervical lymph nodes, 
possibly reactive. 

MRI head ___ IMPRESSION:  
1.  Study is mildly degraded by motion. 
2. Scattered, multifocal areas of left-sided supratentorial and 
infratentorial 
acute infarction. 
3. No hemorrhage or extra-axial collection. 
4. Mild pansinus mucosal thickening. 

CXR ___ IMPRESSION:  
No previous images.  Cardiac silhouette is enlarged without 
vascular 
congestion.  This discordance raises the possibility of 
cardiomyopathy or 
pericardial effusion. 
No pneumonia or pleural effusion. 

Cardiac MRI ___ IMPRESSION: 
Moderately increased left ventricular cavity size with normal 
systolic function.
No late gadolinium enhancement. Normal right ventricular cavity 
size with normal systolic function.

Transesophageal echo ___ IMPRESSION: 
No atrial septal defect or patent forament ovale identified by 
2D, color Doppler or intravenous saline at rest and with 
maneuvers. Normal biventricular global biventricular systolic 
function. Mild tricuspid regurgitation. Normal estimated 
pulmonary artery systolic pressure.

Transthoracic echo ___ IMPRESSION: 
Trivial pericardial effusion. Normal global and regional 
biventricular systolic function.

CXR ___ IMPRESSION:  
Lungs are low volume with bibasilar atelectasis.  Left-sided 
pacemaker is 
unchanged.  Cardiomediastinal silhouette is stable.  There is no 
pleural 
effusion.  No pneumothorax is seen. 
  

 
Brief Hospital Course:
___ year old male with history of bradycardia presenting after 
near syncopal episode, found to have complete heart block and 
acute ischemic stroke.

#Complete heart block
Presented with syncope, found to have CHB. Unclear etiology, s/p 
TTE and MCR, no evidence suggesting infiltrative disease 
(amyloidosis) on CMR, but need continued workup with PET CT for 
sarcoid and Lamin cardiomyopathy. Lyme titer sent (pending on 
DC), TSH wnl, s/p dual chamber pacemaker placement and 
successful revision. Pacemaker was interrogated prior to 
discharge and is working well.

#Acute embolic ischemic stroke
PW with RUE weakness, c/f focal neuro deficit, further worked up 
with images. CTA head and neck showed findings suggesting 
evolving infarct. Followed by MRI which suggested acute ischemic 
stroke in L. sided supratentorial and infratentorial region. TTE 
did not show PFO, ASD, thrombus or valvular lesion. No evidence 
of Afib during the hospitalization on telemetry. Hypercoagulable 
work up pending at the time of discharge. Unclear relationship 
of ischemic stroke to complete heart block. In terms of clinical 
status, RUE and RLE weakness improved, but still has subtle, 
residual weakness on RUE with decreased proprioception. Should 
continue OT as outpatient. 

====================
Transitional issues
====================
[]Started ASA 81mg for secondary prevention
[]On Keflex for 5 day course (___) s/p pacemaker placement
[]Given cause for CHB is unclear, EP recommends continued workup 
with PET CT, which was unable to be performed inpatient.
[]Genetic testing for lamin gene (lamin A/C LMNA) mutation also 
unable to be performed inpatient - please order this test in 
follow-up (may require pre-authorization). 
[]Follow-up: Device clinic scheduled for ___ at 1pm, and per 
EP, continue follow up with Dr. ___
[]Would follow-up hypercoagulable workup in the outpatient 
setting(anticardiolipin and beta-2 glycoprotein)
___ on lyme titer
[]has decreased proprioception which will impair his abilities 
as a ___. We advised him not to use heavy machinery until 
re-evaluation
[]Refrain from lifting heavy stuff to prevent displacing of the 
leads for a month
[]Continue outpatient OT for right upper extremity coordination 

PACEMAKER INFORMATION
=======================
Date of Implant: ___
Indication: Complete heart block 
Device brand/name: ___
Model Number: Azure XT ___ MRI ___ Implanted:
___
A lead brand/model/implant date: ___ CapSureFix® Novus
___ Implanted: ___
RV lead brand/model/implant date: ___ CapSureFix® Novus
___ Implanted: ___

Interrogation:
Battery voltage/time to ERI: ___ years
Presenting rhythm: AS-VP
Underlying rhythm: AS, with no V escape when pacing VVI at 30bpm
Mode,base and upper track rate: DDD, 60-145

Lead Testing
P waves:  1.5mv    A thresh:  0.5V@ 0.4ms     A imp: 418 ohms
R waves:  --    RV thresh: 0.5V@ 0.4ms     RV imp: 551 ohms

Diagnostics:
AP: 23.5%
VP: 99.9%
Events: None

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth q8 Disp #*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Cephalexin 500 mg PO/NG Q8H Duration: 5 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth q8 Disp #*9 Capsule 
Refills:*0 
4.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate Duration: 3 Days 

RX *naproxen [Naprosyn] 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
RX *polyethylene glycol 3350 [ClearLax] 17 gram/dose 1 dose by 
mouth daily PRN Disp #*1 Bottle Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [___] 8.6 mg 1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
CHB s/p dual chamber pacemaker

Secondary Diagnosis
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you almost lost 
consciousness, and we found that there was a disconnection in 
the electrical activity of your heart, called heart block. You 
were also having weakness in your right arm, and we found on an 
MRI that you had had a stroke.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- We did an ultrasound and an MRI of your heart, which did not 
explain the heart block or the strokes.
- You were evaluated by the neurology team and the 
electrophysiology team.
- For the complete heart block: you underwent dual chamber 
pacemaker placement and successful revision. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed.
- It is very important that you follow up in the pacemaker 
clinic on ___.
- Please refrain from lifting your right arm above shoulder 
height, or from lifting heavy material, for 1 month. 
- We also recommend that you have genetic testing to evaluate 
the cause of your heart block, and that you have another imaging 
test called a PET scan to look at your heart. 
- Seek medical attention if you have new or concerning symptoms 
or sudden weakness, intolerable headache, confusion, severe 
lightheadedness, paplpitation and shortness of breath.

We wish you the best!
Your ___ Care Team

 
Followup Instructions:
___